US07691902B2
4-(2-Methylthiazol-4-yl)aniline (19 mg, 0.10 mmol) and 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid (20.6 mg, 0.100 mmol) were dissolved in acetonitrile (1.0 mL) containing triethylamine (42 μL, 0.30 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (42 mg, 0.11 mmol) was added to the mixture and the resulting solution was allowed to stir for 16 hours. The crude product was purified by reverse-phase preparative liquid chromatography to yield 1-(benzo[d][1,3]dioxol-5-yl)-N-(4-(2-methylthiazol-4-yl)phenyl)cyclopropane-carboxamide. ESI-MS m/z calc. 378.1, found; 379.1 (M+1)+; Retention time 2.72 minutes. 1H NMR (400 MHz, DMSO-d6) δ 1.04-1.10 (m, 2H), 1.40-1.44 (m, 2H), 2.70 (s, 3H), 6.03 (s, 2H), 6.88-6.96 (m, 2H), 7.01 (d, J=1.4 Hz, 1H), 7.57-7.61 (m, 2H), 7.81-7.84 (m, 3H), 8.87 (s, 1H).

reactant | 4-(2-Methylthiazol-4-yl)aniline | 0.10 mmol, 19 mg | CC=1SC=C(N1)C1=CC=C(N)C=C1 | C10H10N2S
reactant | 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | 0.100 mmol, 20.6 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | triethylamine | 0.30 mmol, 42 μL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.11 mmol, 42 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(4-(2-methylthiazol-4-yl)phenyl)cyclopropane-carboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C=C2)C=2N=C(SC2)C | C21H18N2O3S
